rc_osc test
.tran 0 2.0e-4
.print tran {v(2)+0.002}  
.options timeint reltol=1.0e-4 abstol=1e-4 method=7

v1 1 0 sin 0 1V 1e5 0 0
r1 1 2 1k
c1 2 0 2u

.end
